US06566367B2
Reflux a solution of 5-phenyl-1,3-dihydro-imidazo[4,5-b]pyrazin-2-one (200 mg) in phosphorus oxychloride (10 mL) for 18 hours. After cooling, remove the excess POCl3 in vacuo, and triturate the residue in ice-water (200 mL). After stirring for 30 minutes, filter the precipitate to obtain 2-chloro-5-phenyl-1H-imidazo[4,5-b]pyrazine as a gray solid.

reactant | 5-phenyl-1,3-dihydro-imidazo[4,5-b]pyrazin-2-one | 200 mg | C1(=CC=CC=C1)C=1N=C2C(=NC1)NC(N2)=O | C11H8N4O
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-phenyl-1H-imidazo[4,5-b]pyrazine | ClC1=NC=2C(=NC=C(N2)C2=CC=CC=C2)N1 | C11H7ClN4
